US09238656B2
Synthesis of (1S,2S,3R,4R)-3-[6-Bromo-2-(1-methyl-1H-pyrrol-2-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (Compound CIX)
In a similar fashion to Compound LXXXVII, (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide (50 mg, 0.148 mmol) and 1-Methyl-1H-pyrrole-2-carbaldehyde (17.7 mg, 0.163 mmol) were reacted to produce 38 mg (60%) of the title compound. mp: 293-295° C., 1H NMR (300 MHz, DMSO-d6): 12.89 (s, 1H), 7.97 (s, 1H), 7.71 (s, 1H), 7.21 (s, 1H), 6.97 (s, 1H), 6.93 (br s, 2H), 6.35 (s, 1H), 6.28 (s, 1H), 6.14 (s, 1H), 5.26 (t, J=8 Hz, 1H), 4.05 (s, 3H), 3.32 (s, 1H), 3.29 (s, 1H), 2.85 (s, 1H), 2.73 (s, 1H), 2.59 (d, J=8 Hz, 1H), 2.26 (d, J=8 Hz, 1H), 1.40 (d, J=8 Hz, 1H). MS: 427, 429 (M+H), HPLC: 2.40 (G method).

reactant | (1S,2S,3R,4R)-3-(2,3-Diamino-5-bromo-pyridin-4-ylamino)-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 0.148 mmol, 50 mg | NC1=NC=C(C(=C1N)N[C@H]1[C@H]([C@@H]2C=C[C@H]1C2)C(=O)N)Br | C13H16BrN5O
reactant | 1-Methyl-1H-pyrrole-2-carbaldehyde | 0.163 mmol, 17.7 mg | CN1C(=CC=C1)C=O | C6H7NO
product | (1S,2S,3R,4R)-3-[6-Bromo-2-(1-methyl-1H-pyrrol-2-yl)-3H-imidazo[4,5-b]pyridin-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | 38 mg, 60% | BrC=1C(=C2C(=NC1)NC(=N2)C=2N(C=CC2)C)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C19H19BrN6O
